US03974195
(6-Carboxyhexyl)triphenylphosphonium Bromide
A mixture of 63.6 g. of 7-bromoheptanoic acid 80 g. of triphenylphosphine, and 300 ml. of acetonitrile is refluxed for 68 hours. Then 200 ml. of acetonitrile is removed by distillation. After the remaining solution has cooled to room temperature, 300 ml. of benzene is added with stirring. After forming a crystal, the mixture is allowed to stand overnight. The solid which separates is collected by filtration giving 134.1 g. of the product as white prisms, melting point 185°-187° C. A portion is recrystallized from methanol-ether affording white prisms, melting point 185°-187°. The infrared spectrum shows absorptions at 2850, 2570, 2480, 1710, 1585, 1485, 1235, 1200, 1185, 1160, 1115, 1000, 755, 725, and 695 cm.-1NMR peaks are observed at 1.2-1.9, 2.1-2.6, 3.3-4.0, and 7.7-8.0 δ.

reactant | 7-bromoheptanoic acid | 80 g | BrCCCCCCC(=O)O | C7H13BrO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
product | (6-Carboxyhexyl)triphenylphosphonium Bromide | [Br-].C(=O)(O)CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H27O2P.BrH/c26-25(27)20-12-1-2-13-21-28(22-14-6-3-7-15-22,23-16-8-4-9-17-23)24-18-10-5-11-19-24;/h3-11,14-19H,1-2,12-13,20-21H2;1H
